US09056873B2
A solution of tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (33 mg, 0.066 mmol), 5-fluorobenzo[b]thiophen-2-ylboronic acid (12.91 mg, 0.066 mmol) and tetrakis(triphenylphosphine)palladium(0) (76 mg, 0.066 mmol) in toluene (3 mL) was heated to 120° C. via microwave irradiation for 30 minutes. The reaction mixture was diluted with EtOAc (50 mL) and saturated aqueous NaHCO3 (100 mL). The organic layer was separated and the aqueous layer was washed with EtOAc (50 mL). The organic layers were combined and dried over Na2SO4, and the solvent was removed in vacuo to give the intermediate, tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-7-fluoro-4-(5-fluorobenzo[b]thiophen-2-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate. The intermediate was dispersed in TFA and DCM (1:1, 10 mL). The mixture was stirred at room temperature for 60 minutes and then concentrated. The resulting crude material was reconstituted in MeOH and DCM (6.0 mL) and purified via preparative HPLC, eluting with a gradient of 25-30% ACN (0.035% TFA) and H2O (0.05% TFA). The collected fractions were combined and the solvent was stripped to dryness via rotary evaporation to yield a TFA salt of the title compound (12 mg, 44%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.82 (d, J=9.76 Hz, 1H), 2.15 (d, J=8.30 Hz, 1H), 3.59-3.70 (m, 1H), 3.82 (s, 1H), 3.91 (br s, 1H), 3.98-4.11 (m, 2H), 4.38 (br s, 1H), 4.43-4.55 (m, 2H), 7.23-7.33 (m, 1H), 7.42 (d, J=4.88 Hz, 1H), 7.76 (dd, J=9.76, 2.44 Hz, 1H), 7.93-8.03 (m, 3H), 8.62-8.74 (m, 1H), 9.41 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C20H18F2N4O2S, 417. found, 417.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.066 mmol, 33 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
reactant | 5-fluorobenzo[b]thiophen-2-ylboronic acid | 0.066 mmol, 12.91 mg | FC1=CC2=C(SC(=C2)B(O)O)C=C1 | C8H6BFO2S
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.066 mmol, 76 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-7-fluoro-4-(5-fluorobenzo[b]thiophen-2-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C1=CC3=C(S1)C=CC(=C3)F)C(N(C2)C(=O)OC(C)(C)C)=O)F | C30H34F2N4O6S
